US08377968B2
To a solution of 2-aminoethanol (0.84 g, 13.8 mmol) and triethylamine (3.85 mL, 27.7 mmol) in CH2Cl2 (100 mL) at −78° C. was added slowly trifluoromethanesulfonic anhydride (8.4 g, 29.8 mmol). The reaction mixture was stirred at −78° C. for 2 hrs, warmed to −40° C. and stirred at −40° C. overnight. The reaction mixture was then diluted with CH2Cl2 (50 mL), washed with cold 0.1N aqueous HCl (2×150 mL) and cold saturated aqueous NaHCO3 (150 mL), and dried over anhydrous Na2SO4. After filtration to the filtrate was added tert-butyl piperidin-4-ylmethylcarbamate (3.00 g, 14.0 mmol). The reaction mixture was concentrated at 0° C. to 50 mL and stirred at room temperature for 3 hrs. The solvent was then removed, and the residue was purified by flash chromatography (3-8% MeOH in CH2Cl2) to provide tert-butyl (1-(2-(trifluoromethyl sulfonamido) ethyl)piperidin-4-yl)methylcarbamate (1.40 g, 26%).

reactant | 2-aminoethanol | 13.8 mmol, 0.84 g | NCCO | C2H7NO
reactant | triethylamine | 27.7 mmol, 3.85 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 29.8 mmol, 8.4 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | tert-butyl piperidin-4-ylmethylcarbamate | 14.0 mmol, 3.00 g | N1CCC(CC1)CNC(OC(C)(C)C)=O | C11H22N2O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (1-(2-(trifluoromethyl sulfonamido) ethyl)piperidin-4-yl)methylcarbamate | 1.40 g, 26% | FC(S(=O)(=O)NCCN1CCC(CC1)CNC(OC(C)(C)C)=O)(F)F | C14H26F3N3O4S
